US08871756B2
To a solution of methyltriphenylphosphonium bromide (3.1 g, 8.64 mmol) in dry tetrahydrofuran (30 mL) was add a solution of sodium bis(trimethylsilyl)amide in hexane (1.0 M, 8.64 mL, 8.64 mmol) under argon. After the reaction was stirred for further 20 minutes, a solution of (4R)-4-formyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (1.8 g, 7.86 mmol) in dry tetrahydrofuran (20 mL) was added dropwise. The resulting mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure. The residue was purified by flash column to give tert-butyl (4S)-4-ethenyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (1.5 g, 83.9%) as colorless liquid.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | hexane | 8.64 mmol, 1.0 M, 8.64 mL | CCCCCC | C6H14
reactant | (4R)-4-formyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 7.86 mmol, 1.8 g | C(=O)[C@@H]1N(C(OC1)(C)C)C(=O)[O-]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 8.64 mmol, 3.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl (4S)-4-ethenyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 1.5 g, 83.9% | C(=C)[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C12H21NO3
